US07932282B2
To a solution of 3-methyl-1-[6-(methyloxy)-3-pyridinyl]-2-oxo-4-imidazolidinecarboxylic acid TFA salt (145 mg, 0.404 mmol) and N-ethylmorpholine (0.307 ml, 2.424 mmol) in dichloromethane (5 ml) was added 1-hydroxybenzotriazole hydrate (61.9 mg, 0.404 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (77 mg, 0.404 mmol) and the reaction mixture was stirred for 10 minutes at room temperature. 1-(2,4-Dichlorophenyl)methanamine (71.1 mg, 0.404 mmol) was added and the reaction was stirred at room temperature overnight. The reaction mixture was diluted with dichloromethane and the solution was washed with saturated sodium hydrogen carbonate solution, water and brine, separated through a hydrophobic frit and the organic layer was reduced under vacuum. The residue was purified by SP4 automated silica gel chromatography eluting with 10-100% ethyl acetate in isohexane to give N-[(2,4-dichlorophenyl)methyl]-3-methyl-1-[6-(methyloxy)-3-pyridinyl]-2-oxo-4-imidazolidinecarboxamide (101 mg, 59.9% yield). LC/MS [M+H]+=409, retention time=2.34 minutes.

reactant | 3-methyl-1-[6-(methyloxy)-3-pyridinyl]-2-oxo-4-imidazolidinecarboxylic acid TFA salt | 0.404 mmol, 145 mg | OC(=O)C(F)(F)F.CN1C(N(CC1C(=O)O)C=1C=NC(=CC1)OC)=O
reactant | N-ethylmorpholine | 2.424 mmol, 0.307 ml | C(C)N1CCOCC1 | C6H13NO
reactant | 1-hydroxybenzotriazole hydrate | 0.404 mmol, 61.9 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.404 mmol, 77 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-(2,4-Dichlorophenyl)methanamine | 0.404 mmol, 71.1 mg | ClC1=C(C=CC(=C1)Cl)CN | C7H7Cl2N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-[(2,4-dichlorophenyl)methyl]-3-methyl-1-[6-(methyloxy)-3-pyridinyl]-2-oxo-4-imidazolidinecarboxamide | 101 mg, 59.9% yield | ClC1=C(C=CC(=C1)Cl)CNC(=O)C1N(C(N(C1)C=1C=NC(=CC1)OC)=O)C | C18H18Cl2N4O3
